US08349846B2
3-Bromo-2-{(E)-2-[2-(cyclopentyloxy)-3-methoxyphenyl]vinyl}-4H-pyrido[1,2-a]-pyrimidin-4-one
The title compound was prepared from 3-bromo-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one (500 mg, 2.091 mmol) and 2-(cyclopentyloxy)-3-methoxybenzaldehyde (514 mg, 2.503 mmol) in the presence of sodium ethoxide (213 mg, 3.131 mmol) in absolute ethanol (15 ml) as described in Intermediate 1 to give 383 mg of the product as a light yellow solid; 1H NMR (CDCl3) δ 1.61-1.69 (m, 4H), 1.70-1.79 (m, 4H), 2.33 (s, 3H), 4.51 (br s, 1H), 7.01-7.07 (m, 2H), 7.12-7.24 (m, 1H), 7.57-7.60 (m, 4H), 8.43 (d, J=15.6 Hz, 1H), 8.94 (d, J=6.3 Hz, 1H).

reactant | 3-bromo-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 2.091 mmol, 500 mg | BrC1=C(N=C2N(C1=O)C=CC=C2)C | C9H7BrN2O
reactant | 2-(cyclopentyloxy)-3-methoxybenzaldehyde | 2.503 mmol, 514 mg | C1(CCCC1)OC1=C(C=O)C=CC=C1OC | C13H16O3
reactant | sodium ethoxide | 3.131 mmol, 213 mg | [O-]CC.[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-Bromo-2-{(E)-2-[2-(cyclopentyloxy)-3-methoxyphenyl]vinyl}-4H-pyrido[1,2-a]-pyrimidin-4-one | BrC1=C(N=C2N(C1=O)C=CC=C2)\C=C\C2=C(C(=CC=C2)OC)OC2CCCC2 | C22H21BrN2O3
